### PR TITLE
[Merged by Bors] - feat(Geometry/Convex): indexed convex combinations

### PR DESCRIPTION
**Pull request by erdOne**
We introduce `sConvexComb` and the indexed version `iConvexComb` as the main API for `ConvexSpace` and prove lemmas around the new definitions. Rename `convexComboPair` to `convexCombPair` to match.

Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 1]
```diff
@@ -138,13 +127,22 @@ lemma map_map (f : StdSimplex R M) (g₁ : M → N) (g₂ : N → P) :
...
   weights := f.weights.sum (fun d r => r • d.weights)
-  nonneg := f.sum_nonneg fun d _ ↦ smul_nonneg (f.nonneg d) d.nonneg
-  total := by
-    rw [Finsupp.sum_sum_index (fun _ ↦ rfl) (fun _ _ _ ↦ rfl)]
-    convert f.total
-    rw [Finsupp.sum_smul_index (fun _ ↦ rfl), ← Finsupp.mul_sum, StdSimplex.total, mul_one]
+  nonneg := f.weights.sum_nonneg fun d _ ↦ smul_nonneg (f.nonneg d) d.nonneg
+  total := by simp [sum_sum_index, sum_smul_index, ← mul_sum]
+
+lemma join_assoc (f : StdSimplex R (StdSimplex R (StdSimplex R M))) :
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
lemma join_join (f : StdSimplex R (StdSimplex R (StdSimplex R M))) :
```

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 2]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
 where the coefficients must be non-negative and sum to 1.
 -/
 class ConvexSpace (R : Type u) (M : Type v)
-    [PartialOrder R] [Semiring R] [IsStrictOrderedRing R] where
+    [inst₁ : PartialOrder R] [inst₂ : Semiring R] [inst₃ : IsStrictOrderedRing R] where
   /-- Take a convex combination with the given probability distribution over points. -/
-  convexCombination (f : StdSimplex R M) : M
+  sConvexCombo [inst₁] [inst₂] [inst₃] (f : StdSimplex R M) : M
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]:
```suggestion
  sConvexCombo [inst₁ inst₂ inst₃] (f : StdSimplex R M) : M
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 3]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+namespace ConvexSpace
+
+variable (R) in
+/-- A map between convex spaces is affine if it preserves convex combinations. -/
+@[fun_prop]
+structure IsAffineMap (f : M → N) : Prop where
+  map_sConvexCombo (s : StdSimplex R M) : f s.sConvexCombo = (s.map f).sConvexCombo
+
+@[fun_prop]
+lemma IsAffineMap.id : IsAffineMap R (id : M → M) where
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
protected lemma IsAffineMap.id : IsAffineMap R (id : M → M) where
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 4]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+
+lemma map_sConvexCombo (s : StdSimplex R (StdSimplex R I)) (f : I → J) :
+    s.sConvexCombo.map f = (s.map (map f)).sConvexCombo :=
+  StdSimplex.map_join s f
+
+end sConvexCombo
+
+end StdSimplex
+
+namespace ConvexSpace
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]: As we have discussed,
```suggestion
namespace Convexity
```
maybe

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 5]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+
+namespace StdSimplex
+
+section iConvexCombo
+
+/-- Take a convex combination with the given weight distribution of an indexed family of points. -/
+def iConvexCombo (s : StdSimplex R I) (f : I → M) : M := (s.map f).sConvexCombo
+
+@[simp] lemma iConvexCombo_const (s : StdSimplex R I) (m : M) :
+    (s.iConvexCombo fun _ ↦ m) = m := by simp [iConvexCombo]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
    s.iConvexCombo (fun _ ↦ m) = m := by simp [iConvexCombo]
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 6]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+
+@[simp] lemma iConvexCombo_single (i : I) (f : I → M) :
+    ((single (R := R) i).iConvexCombo f) = f i := by simp [iConvexCombo]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
    (single (R := R) i).iConvexCombo f = f i := by simp [iConvexCombo]
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 7]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+
+@[simp] lemma iConvexCombo_id (s : StdSimplex R M) :
+    s.iConvexCombo id = s.sConvexCombo := by simp [iConvexCombo]
+
+@[simp] lemma iConvexCombo_id' (s : StdSimplex R M) :
+    (s.iConvexCombo fun x ↦ x) = s.sConvexCombo := iConvexCombo_id s
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
    s.iConvexCombo (fun x ↦ x) = s.sConvexCombo := iConvexCombo_id s
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 8]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+    {J : I → Type*} (s : StdSimplex R I) (f : Π i, StdSimplex R (J i)) (g : Π i, J i → M) :
+    s.iConvexCombo (fun i ↦ (f i).iConvexCombo (g i)) =
+      (s.iConvexCombo fun i ↦ (f i).map (⟨i, ·⟩)).iConvexCombo (Sigma.uncurry g) := by
+  simp only [iConvexCombo]
+  rw [← map_map, ← sConvexCombo_sConvexCombo]
+  congr 1
+  simp [map_sConvexCombo, map_map, Sigma.uncurry]
+
+lemma iConvexCombo_map (s : StdSimplex R I) (f : I → J) (g : J → M) :
+  (s.map f).iConvexCombo g = s.iConvexCombo (g ∘ f) := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
    (s.map f).iConvexCombo g = s.iConvexCombo (g ∘ f) := by
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 9]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+  simp only [iConvexCombo, map_comp]
+
+lemma iConvexCombo_congr (s : StdSimplex R I) (f : I ≃ J) (g : I → M) :
+  s.iConvexCombo g = (s.map f).iConvexCombo (g ∘ f.symm) := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
    s.iConvexCombo g = (s.map f).iConvexCombo (g ∘ f.symm) := by
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 10]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+    Finsupp.smul_sum, mul_comm, Finsupp.sum_comm f.weights g.weights]
+
+lemma _root_.ConvexSpace.IsAffineMap.map_iConvexCombo {f : M → N} (hf : IsAffineMap R f)
+    (s : StdSimplex R I) (g : I → M) : f (s.iConvexCombo g) = s.iConvexCombo (f ∘ g) := by
+  simp [StdSimplex.iConvexCombo, hf.map_sConvexCombo, StdSimplex.map_comp]
+
+lemma map_iConvexCombo {f : J → K}
+    (s : StdSimplex R I) (g : I → StdSimplex R J) :
+    (s.iConvexCombo g).map f = s.iConvexCombo (map f ∘ g) :=
+  (StdSimplex.isAffineMap_map R f).map_iConvexCombo s g
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
  (isAffineMap_map R f).map_iConvexCombo s g
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 11]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+  suffices (f.map (fun x ↦ g.map (fun x_1 ↦ Sigma.mk x_1 x))).join =
+      (g.map (f.map ∘ Sigma.mk)).join by
+    simpa [iConvexCombo, map_sConvexCombo, StdSimplex.map_map, Function.comp_def]
+  ext1
+  simp [StdSimplex.join, StdSimplex.map, Finsupp.mapDomain, Finsupp.sum_sum_index, add_smul,
+    Finsupp.smul_sum, mul_comm, Finsupp.sum_comm f.weights g.weights]
+
+lemma _root_.ConvexSpace.IsAffineMap.map_iConvexCombo {f : M → N} (hf : IsAffineMap R f)
+    (s : StdSimplex R I) (g : I → M) : f (s.iConvexCombo g) = s.iConvexCombo (f ∘ g) := by
+  simp [StdSimplex.iConvexCombo, hf.map_sConvexCombo, StdSimplex.map_comp]
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
  simp [iConvexCombo, hf.map_sConvexCombo, map_comp]
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 12]
```diff
@@ -153,24 +153,154 @@ A set equipped with an operation of finite convex combinations,
...
+  simp [iConvexCombo_map, Function.comp_def]
+
+variable {R M I J : Type*} [PartialOrder R] [CommSemiring R] [IsStrictOrderedRing R]
+  [ConvexSpace R M] in
+lemma iConvexCombo_comm (f : StdSimplex R I) (g : StdSimplex R J)
+    (e : I → J → M) :
+    f.iConvexCombo (fun x ↦ g.iConvexCombo (e x)) =
+      g.iConvexCombo fun x ↦ f.iConvexCombo fun y ↦ e y x := by
+  rw [StdSimplex.iConvexCombo_iConvexCombo, StdSimplex.iConvexCombo_iConvexCombo,
+    StdSimplex.iConvexCombo_congr _ (((Equiv.sigmaEquivProd I J).trans
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
  rw [iConvexCombo_iConvexCombo, iConvexCombo_iConvexCombo,
    iConvexCombo_congr _ (((Equiv.sigmaEquivProd I J).trans
```

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: This does not work.

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Analysis/Convex/MetricSpace.lean [hunk 13]
```diff
@@ -12,16 +12,20 @@ public import Mathlib.LinearAlgebra.ConvexSpace.AffineSpace
...
+# Convex spaces with compatible metric structure
 
-A convex metric space is a convex space with a compatible metric structure.
-Concretely, we ask for `dist(∑ tᵢ xᵢ, ∑ tᵢ yᵢ) ≤ ∑ tᵢ dist(xᵢ, yᵢ)`,
-which is what one would expect from the triangle inequality.
+A convex space has a compatible metric structure if `dist(∑ tᵢ xᵢ, ∑ tᵢ yᵢ) ≤ ∑ tᵢ dist(xᵢ, yᵢ)`.
+This is what one would expect from the triangle inequality.
+
+Note that there is a separate notion of convex metric spaces in the literature
+that has little to do with this definition.
```
Comment (faenuccio) [inline Mathlib/Analysis/Convex/MetricSpace.lean:22]: Can you add a reference to what you've got in mind?

File: Mathlib/Analysis/Convex/MetricSpace.lean [hunk 14]
```diff
@@ -12,16 +12,20 @@ public import Mathlib.LinearAlgebra.ConvexSpace.AffineSpace
...
 
 ## Main results
-- `IsConvexMetricSpace`: The (`Prop`-valued) class of convex metric spaces.
-- `continuous_convexComboPair`: Binary convex combination is continuous.
-- `Convex.isConvexMetricSpace`: Convex subspaces of normed spaces are convex metric spaces.
+- `Convexity.ConvexSpace.IsMetricCompatible`: The (`Prop`-valued) class of convex spaces with
+  compatible .
```
Comment (faenuccio) [inline Mathlib/Analysis/Convex/MetricSpace.lean]:
```suggestion
  compatible metric structure.
```

File: Mathlib/Analysis/Convex/MetricSpace.lean [hunk 15]
```diff
@@ -33,36 +37,43 @@ which is what one would expect from the triangle inequality.
...
 /-- A convex metric space is a real convex space with a compatible metric structure.
 Concretely, we ask for `dist(∑ tᵢ xᵢ, ∑ tᵢ yᵢ) ≤ ∑ tᵢ dist(xᵢ, yᵢ)`,
 which is what one would expect from the triangle inequality.
 
-In particular, convex subsets of normed affine spaces are convex metric spaces. -/
-class IsConvexMetricSpace : Prop where
+In particular, convex subsets of normed affine spaces are convex metric spaces.
+
+Note that there is a separate notion of convex metric spaces in the literature
+that has little to do with this definition. -/
```
Comment (faenuccio) [inline Mathlib/Analysis/Convex/MetricSpace.lean:56]: Ditto for the reference (or quote the beginning of the file if you've added it there)

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Where does the name "Combo" come from?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 16]
```diff
@@ -153,24 +157,159 @@ A set equipped with an operation of finite convex combinations,
 where the coefficients must be non-negative and sum to 1.
 -/
 class ConvexSpace (R : Type u) (M : Type v)
-    [PartialOrder R] [Semiring R] [IsStrictOrderedRing R] where
+    [inst₁ : PartialOrder R] [inst₂ : Semiring R] [inst₃ : IsStrictOrderedRing R] where
+  /-- Use `mk` instead. -/
+  mk' ::
   /-- Take a convex combination with the given probability distribution over points. -/
-  convexCombination (f : StdSimplex R M) : M
+  sConvexCombo [inst₁] [inst₂] [inst₃] (f : StdSimplex R M) : M
```
Comment (faenuccio) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: It seems to me that the three instance variables are not needed here in `sConvexCombo`. Why do you need to name them explicitely?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 17]
```diff
@@ -20,39 +18,38 @@ This file defines convex spaces as an algebraic structure supporting finite conv
...
-  coefficients in `R`. The weights are non-negative and sum to 1.
-* `StdSimplex.map`: Map a function over the support of a standard simplex.
-* `StdSimplex.join`: Monadic join operation for standard simplices.
-* `ConvexSpace R M`: A typeclass for spaces `M` equipped with an operation
-  `convexCombination : StdSimplex R M → M` satisfying monadic laws.
-* `convexComboPair`: Binary convex combinations of two points.
+* `Convexity.StdSimplex R M`: A finitely supported probability distribution over elements of `M`
+  with coefficients in `R`. The weights are non-negative and sum to 1.
+* `Convexity.StdSimplex.map`: Map a function over the support of a standard simplex.
+* `Convexity.ConvexSpace R M`: A typeclass for spaces `M` equipped with an operation
```
Comment (faenuccio) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:24]: with an operation... ? Did you forget to add something (a period, at least, but perhaps more)?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 18]
```diff
@@ -20,39 +18,38 @@ This file defines convex spaces as an algebraic structure supporting finite conv
...
+open Finsupp
 
-universe u v w
+namespace Convexity
 
-noncomputable section
 
 /--
 A finitely supported probability distribution over elements of `M` with coefficients in `R`.
 The weights are non-negative and sum to 1.
```
Comment (faenuccio) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:48]:
```suggestion
The weights are non-negative and sum to `1`.
```

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 19]
```diff
@@ -20,39 +18,38 @@ This file defines convex spaces as an algebraic structure supporting finite conv
...
 
-* `StdSimplex R M`: A finitely supported probability distribution over elements of `M` with
-  coefficients in `R`. The weights are non-negative and sum to 1.
-* `StdSimplex.map`: Map a function over the support of a standard simplex.
-* `StdSimplex.join`: Monadic join operation for standard simplices.
-* `ConvexSpace R M`: A typeclass for spaces `M` equipped with an operation
-  `convexCombination : StdSimplex R M → M` satisfying monadic laws.
-* `convexComboPair`: Binary convex combinations of two points.
+* `Convexity.StdSimplex R M`: A finitely supported probability distribution over elements of `M`
+  with coefficients in `R`. The weights are non-negative and sum to 1.
```
Comment (faenuccio) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:22]:
```suggestion
  with coefficients in `R`. The weights are non-negative and sum to `1`.
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 20]
```diff
@@ -66,6 +63,8 @@ namespace StdSimplex
 
 variable {R : Type u} [PartialOrder R] [Semiring R] {M N P : Type*}
 
+@[simp] lemma weights_nonneg (f : StdSimplex R M) (i : M) : 0 ≤ f.weights i := f.nonneg i
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]: Do you imagine cases where this is applied and `f` needs to be explicit?

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 21]
```diff
@@ -87,48 +86,42 @@ theorem mk_single (x : M) {nonneg total} :
...
 
 /-- A probability distribution with weight `s` on `x` and weight `t` on `y`. -/
+@[simps weights]
 def duple (x y : M) {s t : R} (hs : 0 ≤ s) (ht : 0 ≤ t) (h : s + t = 1) : StdSimplex R M where
   weights := Finsupp.single x s + Finsupp.single y t
   nonneg := add_nonneg (by simpa) (by simpa)
-  total := by
-    classical
-    rw [Finsupp.sum_add_index] <;> simp [h]
+  total := by classical simp [sum_add_index, h]
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
  total := by classical simpa [sum_add_index]
```

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 22]
```diff
@@ -153,24 +157,159 @@ A set equipped with an operation of finite convex combinations,
...
+namespace StdSimplex
+
+export ConvexSpace (sConvexCombo)
+
+instance : ConvexSpace R (StdSimplex R I) where
+  sConvexCombo σ := σ.join
+  assoc f := by exact (join_join f).symm
+  sConvexCombo_single := by exact join_single
+
+@[simp] lemma weights_sConvexCombo (f : StdSimplex R (StdSimplex R I)) :
```
Comment (faenuccio) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Why do you want this to be a simp lemma (and in this direction)?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 23]
```diff
@@ -153,24 +157,159 @@ A set equipped with an operation of finite convex combinations,
...
+    f.sConvexCombo.weights = f.weights.sum (fun d r => r • d.weights) :=
+  StdSimplex.join_weights _
+
+lemma map_sConvexCombo (s : StdSimplex R (StdSimplex R I)) (f : I → J) :
+    s.sConvexCombo.map f = (s.map (map f)).sConvexCombo :=
+  StdSimplex.map_join s f
+
+end StdSimplex
+
+lemma sConvexCombo_sConvexCombo (f : StdSimplex R (StdSimplex R M)) :
```
Comment (faenuccio) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Don't you want some "map" in the naming?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 24]
```diff
@@ -153,24 +157,159 @@ A set equipped with an operation of finite convex combinations,
...
-open ConvexSpace
+variable (R) in
+/-- A map between convex spaces is affine if it preserves convex combinations. -/
+@[fun_prop]
+structure IsAffineMap (f : M → N) : Prop where
+  map_sConvexCombo (s : StdSimplex R M) : f s.sConvexCombo = (s.map f).sConvexCombo
 
-variable {R M} [PartialOrder R] [Semiring R] [IsStrictOrderedRing R] [ConvexSpace R M]
+@[fun_prop]
+protected lemma IsAffineMap.id : IsAffineMap R (id : M → M) where
```
Comment (faenuccio) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:270]: Why do you want to protect this one? It seems unlikely that it would conflict, but perhaps I'm overseeing something.

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 25]
```diff
@@ -153,24 +157,159 @@ A set equipped with an operation of finite convex combinations,
...
+@[fun_prop]
+lemma IsAffineMap.comp {g : N → P} (hg : IsAffineMap R g) {f : M → N} (hf : IsAffineMap R f) :
+    IsAffineMap R (g ∘ f) where
+  map_sConvexCombo s := by
+    simp [StdSimplex.map_comp, hf.map_sConvexCombo, hg.map_sConvexCombo]
+
+variable (R) in
+@[fun_prop]
+lemma StdSimplex.isAffineMap_map (f : I → J) : IsAffineMap R (StdSimplex.map (R := R) f) :=
+  ⟨fun s ↦ s.map_sConvexCombo f⟩
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
  ⟨(map_sConvexCombo · f)⟩
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 26]
```diff
@@ -153,24 +157,159 @@ A set equipped with an operation of finite convex combinations,
...
+
+section iConvexCombo
+
+/-- Take a convex combination with the given weight distribution of an indexed family of points. -/
+def iConvexCombo (s : StdSimplex R I) (f : I → M) : M := (s.map f).sConvexCombo
+
+namespace StdSimplex
+
+export Convexity (iConvexCombo)
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]: I'm a bit perplexed about these three lines; don't they show that the export should have taken place elsewhere?

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 27]
```diff
@@ -153,24 +157,159 @@ A set equipped with an operation of finite convex combinations,
...
+  (isAffineMap_map R f).map_iConvexCombo s g
+
+end iConvexCombo
+
+variable {s t : R} (hs : 0 ≤ s) (ht : 0 ≤ t) (h : s + t = 1)
+variable {s' t' : R} (hs' : 0 ≤ s') (ht' : 0 ≤ t') (h' : s' + t' = 1)
+variable {s'' t'' : R} (hs'' : 0 ≤ s'') (ht'' : 0 ≤ t'') (h'' : s'' + t'' = 1)
 
 /-- Take a convex combination of two points. -/
 def convexComboPair (s t : R) (hs : 0 ≤ s) (ht : 0 ≤ t) (h : s + t = 1) (x y : M) : M :=
```
Comment (faenuccio) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]: since you use the `single` suffix, why not using the `duple` one also rather than `pair`?

**Review by faenuccio — COMMENTED** [review]
I've left some comments but haven't finished reviewing `ConvexSpace` and `AffineSpace`.

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 24 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:270]: It would conflict with `_root_.id`

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: Where is this "duple" terminology coming from? It seems highly non-standard!

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 16 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Otherwise they end up implicit in `sConvexCombo` (instead of being instance arguments), which renders it unusable

Comment (faenuccio) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Interesting, I had never noticed! Can you please add a line in the doc explaining this?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 24 above)
Comment (faenuccio) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:270]: Oh sure! Please forget this stupid comment :face_with_head_bandage:

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 27 above)
Comment (faenuccio) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: This is what I've got in mind
https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/ConvexSpace.html#StdSimplex.duple

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: I don't think so, given that the name already fully describes the LHS

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 17 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:24]: The rest of the sentence is on the following line

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 18 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:48]: This is pre-existing and seems unimportant

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 21 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: Your suggested proof gives strictly less indication so as to how the tactic closes the goal, so I doubt it is a good idea

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 22 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: This is a projection lemma: `weights` is a projection of `StdSimplex` and `sConvexCombo` here is an operation on `StdSimplex R I`.

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: Kim seems to have come up with this terminology. I would be in favour of switching to the less obscure `StdSimplex.pair`

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 26 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: This is the earliest it could have been since `iConvexCombo` is declared just above. I have left a comment explaining the export

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 21 above)
Comment (faenuccio) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: It has the benefit of not referring explicitly to a variable introduced during the proof, but just to the fact that *a* variable of a required type exists.

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 2 above)
Comment (faenuccio) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Can you explain this `Combo`?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 22 above)
Comment (faenuccio) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Thanks, but can you provide more details? The RHS does not seem to be a simp form of the LHS, or at least not more usable. Why should users on your opinion prefer to work with the RHS than the LHS?

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 23 above)
Comment (faenuccio) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: But the RHS contains a map...

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 27 above)
Comment (faenuccio) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: Well, but for consistency I would suggest that we keep them on sync, and we might change both in a successive PR.

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 23 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Yes, but lemmas are named after their LHS. The RHS is only used for disambiguation. See eg [`Polynomial.map_map`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Eval/Coeff.html#Polynomial.map_map) whose name doesn't contain `comp`

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: This is the standard shortening of "combination". It is such a basic operation within the theory that a relatively short name is in order. In the future, please avoid scope-creeping comments

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 27 above)
Comment (YaelDillies) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: Actually, I doubt they need to be consistent? `duple` is the distribution based on two points, while `convexComboPair` is the combination of a pair of elements. Only the former has this idea of "content at two points" and it wouldn't be make sense to use `duple` for the second one

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 22 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: The point is that for concrete `f` one knows `f.weight` (because it is a projection) but not `f.sConvexCombo` (except through said lemma)

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 28]
```diff
@@ -186,15 +328,124 @@ theorem convexComboPair_one {x y : M} :
...
   congr 1
   ext1
   simp [StdSimplex.duple, add_comm]
+
+lemma IsAffineMap.map_convexComboPair {f : M → N} (hf : IsAffineMap R f)
+    {s t : R} (hs : 0 ≤ s) (ht : 0 ≤ t) (h : s + t = 1) (x y : M) :
+    f (convexComboPair s t hs ht h x y) = convexComboPair s t hs ht h (f x) (f y) := by
+  simp [hf.map_sConvexCombo, convexComboPair]
+
+/-- Flattening with the outer combination specilaized to `convexComboPair`. -/
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
/-- Flattening with the outer combination specialized to `convexComboPair`. -/
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 29]
```diff
@@ -186,15 +328,124 @@ theorem convexComboPair_one {x y : M} :
...
+    convexComboPair s t hs ht h (g₁.iConvexCombo m₁) (g₂.iConvexCombo m₂) =
+      (convexComboPair s t hs ht h (g₁.map m₁) (g₂.map m₂)).sConvexCombo := by
+  have := iConvexCombo_iConvexCombo (I := Fin 2) (.duple 0 1 hs ht h)
+    (J := ![ULift.{max u₁ u₂} J₁, ULift.{max u₁ u₂} J₂])
+    (M := M) (Fin.cons (g₁.map ULift.up) (Fin.cons (g₂.map ULift.up) nofun))
+    (Fin.cons (m₁ ∘ ULift.down) (Fin.cons (m₂ ∘ ULift.down) nofun))
+  simp [iConvexCombo, map_sConvexCombo, map_map, Sigma.uncurry] at this
+  simpa [convexComboPair, ← convexComboPair_def]
+
+/-- Flattening with the inner combination specilaized to `convexComboPair`. -/
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
/-- Flattening with the inner combination specialized to `convexComboPair`. -/
```

File: Mathlib/Analysis/Convex/MetricSpace.lean [hunk 30]
```diff
@@ -12,57 +12,71 @@ public import Mathlib.LinearAlgebra.ConvexSpace.AffineSpace
...
+Note that there is a separate notion of
+[convex metric spaces](https://en.wikipedia.org/wiki/Convex_metric_space) in the literature
+that has little to do with this definition. -/
+class ConvexSpace.IsMetricCompatible : Prop where
   /-- Use `dist_convexCombination_map_le` instead. -/
-  dist_convexCombination_map_le' (f : StdSimplex ℝ ℕ) (x y : ℕ → X) :
-    dist (convexCombination (f.map x)) (convexCombination (f.map y)) ≤
-      f.weights.sum fun i r ↦ r * dist (x i) (y i)
+  dist_iConvexCombo_le' (f : StdSimplex ℝ ℕ) (x y : ℕ → X) :
+    dist (f.iConvexCombo x) (f.iConvexCombo y) ≤ f.weights.sum fun i r ↦ r * dist (x i) (y i)
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/MetricSpace.lean]: This is preexisting so I won't ask for it now, but wouldn't the more morally correct definition be stated in terms of a distribution on `X × X` ?

File: Mathlib/Analysis/Convex/MetricSpace.lean [hunk 31]
```diff
@@ -12,57 +12,71 @@ public import Mathlib.LinearAlgebra.ConvexSpace.AffineSpace
...
 which is what one would expect from the triangle inequality.
 
-In particular, convex subsets of normed affine spaces are convex metric spaces. -/
-class IsConvexMetricSpace : Prop where
+In particular, convex subsets of normed affine spaces are convex metric spaces.
+
+Note that there is a separate notion of
+[convex metric spaces](https://en.wikipedia.org/wiki/Convex_metric_space) in the literature
+that has little to do with this definition. -/
+class ConvexSpace.IsMetricCompatible : Prop where
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/MetricSpace.lean]: What do you think about naming this simply `ConvexDist` or `ConvexDistClass` ? This is also fine for me.

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 32]
```diff
@@ -137,40 +130,189 @@ lemma map_map (f : StdSimplex R M) (g₁ : M → N) (g₂ : N → P) :
...
+namespace StdSimplex
+
+export ConvexSpace (sConvexCombo)
+
+instance : ConvexSpace R (StdSimplex R I) where
+  sConvexCombo σ := σ.join
+  assoc f := by exact (join_join f).symm
+  sConvexCombo_single := by exact join_single
+
+@[simp] lemma weights_sConvexCombo (f : StdSimplex R (StdSimplex R I)) :
```
Comment (ADedecker) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: I note that all the autogenerated lemmas have the form `X_weights`. Could you either change this to the same pattern or do some `initialize_simps` magic to change the autogenerated ones?

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 33]
```diff
@@ -137,40 +130,189 @@ lemma map_map (f : StdSimplex R M) (g₁ : M → N) (g₂ : N → P) :
...
+    [inst₁ : PartialOrder R] [inst₂ : Semiring R] [inst₃ : IsStrictOrderedRing R] where
+  /-- Use `mk` instead. -/
+  mk' ::
   /-- Take a convex combination with the given probability distribution over points. -/
-  convexCombination (f : StdSimplex R M) : M
+  /- FIXME: Lean makes `inst₁`, `inst₂`, `inst₃` implicit by default, which renders `sConvexCombo`
+  unusable. Why is this so? Shouldn't typeclass arguments to a `structure` also be typeclass
+  arguments to its fields? -/
+  sConvexCombo [inst₁] [inst₂] [inst₃] (f : StdSimplex R M) : M
   /-- Associativity of convex combination (monadic join law). -/
```
Comment (ADedecker) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]: Could you mention that the public-facing-API for this is `sConvexCombo_sConvexCombo` ? (It is, right?)

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 23 above)
Comment (ADedecker) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: I think this name is fine.

File: Mathlib/LinearAlgebra/ConvexSpace.lean (hunk 27 above)
Comment (ADedecker) [reply Mathlib/LinearAlgebra/ConvexSpace.lean]: I agree with the need to rename `StdSimplex.duple` eventually. It would still be better to have consistency, but I think `convexComboPair` is so much more useful that it should keep its name.

File: Mathlib/Analysis/Convex/MetricSpace.lean (hunk 30 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/MetricSpace.lean]: Sorry, not sure what you have in mind here. Mind expanding?

File: Mathlib/Analysis/Convex/MetricSpace.lean (hunk 31 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/MetricSpace.lean]: Is this really what it means for the distance function to be convex?

Comment (ADedecker) [reply Mathlib/Analysis/Convex/MetricSpace.lean]: Well there's the ambiguity between "convex in each variable" or "jointly convex". But this should be "the distance is jointly convex as a map from `X × X` to `ℝ`", right?

File: Mathlib/Analysis/Convex/MetricSpace.lean (hunk 30 above)
Comment (ADedecker) [reply Mathlib/Analysis/Convex/MetricSpace.lean]: I claim the correct (and equivalent) definition is:
```lean
variable (X) in
class ConvexSpace.IsMetricCompatible : Prop where
  dist_convex (f : StdSimplex ℝ (X × X)) :
    dist (f.iConvexCombo Prod.fst) (f.iConvexCombo Prod.snd) ≤
      (f.iConvexCombo fun p ↦ dist p.1 p.2)
```

File: Mathlib/Analysis/Convex/MetricSpace.lean [hunk 34]
```diff
@@ -12,57 +12,71 @@ public import Mathlib.LinearAlgebra.ConvexSpace.AffineSpace
...
   /-- Use `dist_convexCombination_map_le` instead. -/
```
Comment (ADedecker) [inline Mathlib/Analysis/Convex/MetricSpace.lean]: This should be updated, right?

**Comment by ADedecker** [comment]
About the `Combo` naming: I'm personally completely fine with the naming, because I've heard the "combo" abbreviation quite a lot in my life. It is also mentioned on the wikitionary, however it is listed as slang...

File: Mathlib/Analysis/Convex/MetricSpace.lean (hunk 30 above)
Comment (YaelDillies) [reply Mathlib/Analysis/Convex/MetricSpace.lean]: Yep, came up with it too

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean (hunk 2 above)
Comment (grunweg) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: > In the future, please avoid scope-creeping comments

I think there's a middle ground to be had, which might encompass both your perspectives.
Asking a question "actually, this seems strange to me, why is this?" can be very valuable. Perhaps this is the time to teach the reviewer/maintainer about this bit of knowledge. Perhaps this used to be a good decision, but deserves being revisited now!

Asking "can you make this change in this PR, please" becomes scope-creep pretty quickly, so has to be used with great caution. But saying "this would be a great future PR" is fine, imho.

Comment (kbuzzard) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: Surely it is *this PR* which is introducing the creep, not the comment! It is *this PR* which is changing some occurrences of the English word `Combination` to the slang word `Combo` and raising the question as to whether the change is what we want is the opposite of scope creep, it is trying to minimise changes!

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean]: All I mean is that Filippo's comment has got nothing to do with the previous comments in this thread. In fact, let me mark this as resolved, since the original comment was, in fact, resolved. Please write a new comment if you care about it

**Comment by ocfnash** [comment]
bors merge

**Comment by bryangingechen** [comment]
This might need a merge of `master`: https://github.com/leanprover-community/mathlib4/actions/runs/25064814750/job/73428880192#step:23:54

bors r-
bors d+

**Comment by YaelDillies** [comment]
Sorry, I was in the middle of something when I had to leave. Will finish things tomorrow. But Andrew is busy, so could this be delegated to me?

File: Mathlib/Analysis/Convex/MetricSpace.lean [hunk 35]
```diff
@@ -12,57 +12,74 @@ public import Mathlib.LinearAlgebra.ConvexSpace.AffineSpace
...
+namespace Convexity
 
 open ConvexSpace
 
-variable {X : Type*} [ConvexSpace ℝ X] [MetricSpace X]
+variable {I X : Type*} [ConvexSpace ℝ X] [MetricSpace X]
 
 variable (X) in
-/-- A convex metric space is a real convex space with a compatible metric structure.
+/-- Typeclass for a A convex metric space is a real convex space with a compatible metric structure.
```
Comment (b-mehta) [inline Mathlib/Analysis/Convex/MetricSpace.lean]: This doesn't seem to make sense as written

**Comment by YaelDillies** [comment]
bors retry

**Comment by grunweg** [comment]
I'm not a great fan of the `combo` name: mathlib doesn't have to be very uptight, but I don't see the need to use the slang register. Given we use `LinearCombination`, we should in any case be consistent, and I'm not convinced the churn of switching to `LinearCombi` is worth it.

Also, for posterity: this PR would need deprecations to go along with renaming existing items.

**Comment by YaelDillies** [comment]
> I'm not a great fan of the `combo` name: mathlib doesn't have to be very uptight, but I don't see the need to use the slang register. Given we use `LinearCombination`, we should in any case be consistent, and I'm not convinced the churn of switching to `LinearCombi` is worth it.
> 
> Also, for posterity: this PR would need deprecations to go along with renaming existing items.

For having now worked with `ConvexSpace` quite a bit, I can assure you that the shorter name is a blessing. Although I would like it to be renamed too, I do not see the parallel with `linearCombination`: It is a bundling of a simple to spell out function and rarely appears nested, while `sConvexCombo`/`iConvexCombo`/`convexComboPair` are the fundamental operations of convex spaces and they are frequently nested. A better parallel would be to call "add" slang and require everyone to spell it `addition` instead...

At any rate, I have added what I believe were all the missing deprecations. Let me know if you spot more of them.

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 36]
```diff
@@ -153,24 +174,174 @@ A set equipped with an operation of finite convex combinations,
...
+    [inst₁ : PartialOrder R] [inst₂ : Semiring R] [inst₃ : IsStrictOrderedRing R] where
+  /-- Use `mk` instead. -/
+  mk' ::
   /-- Take a convex combination with the given probability distribution over points. -/
-  convexCombination (f : StdSimplex R M) : M
-  /-- Associativity of convex combination (monadic join law). -/
-  assoc (f : StdSimplex R (StdSimplex R M)) :
-    convexCombination (f.map convexCombination) = convexCombination f.join
+  /- FIXME: Lean makes `inst₁`, `inst₂`, `inst₃` implicit by default, which renders `sConvexCombo`
+  unusable. Why is this so? Shouldn't typeclass arguments to a `structure` also be typeclass
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]:
```suggestion
  /- FIXME: Lean makes `inst₁`, `inst₂`, `inst₃` implicit by default, which renders `sConvexCombo`
  unusable without these manual `[inst]` binders. Why is this so? Shouldn't typeclass arguments to a `structure` also be typeclass
```

File: Mathlib/LinearAlgebra/ConvexSpace.lean [hunk 37]
```diff
@@ -153,24 +174,174 @@ A set equipped with an operation of finite convex combinations,
...
+abbrev ConvexSpace.mk {M : Type*} (sConvexCombo : StdSimplex R M → M)
+    (single : ∀ x : M, sConvexCombo (.single x) = x)
+    (assoc : ∀ f : StdSimplex R (StdSimplex R M),
+      sConvexCombo (f.map sConvexCombo) = sConvexCombo f.sConvexCombo) : ConvexSpace R M :=
+  ⟨sConvexCombo, single, assoc⟩
+
+variable (R) in
+/-- A map between convex spaces is affine if it preserves convex combinations. -/
+@[fun_prop]
+structure IsAffineMap (f : M → N) : Prop where
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/ConvexSpace.lean]: I think this needs a remark noting the existence of `AffineMap` in the global namespace, and pointing out any relation.

File: Mathlib/Geometry/Convex/ConvexSpace/Defs.lean [hunk 38]
```diff
@@ -62,73 +59,86 @@ attribute [simp] StdSimplex.total
...
-  cases f; cases g; simp_all
+lemma nonempty [Nontrivial R] (w : StdSimplex R M) : Nonempty M :=
+  w.support_weights_nonempty.to_type
+
+@[simp] lemma weights_inj {f g : StdSimplex R M} : f.weights = g.weights ↔ f = g := by
+  cases f; cases g; simp
+
+@[ext] alias ⟨ext, _⟩ := weights_inj
 
 variable [IsStrictOrderedRing R]
```
Comment (martinwintermath) [inline Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:83]: Does `IsOrderedRing` suffice for everything here?

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:83]: Possibly, but do we care about non-strictly ordered rings here (eg `Real x Real`)? At any rate, `ConvexSpace` currently assumes `IsStrictOrderedRing`, so this is out of scope for this PR.

Comment (martinwintermath) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:83]: `[IsOrderedRing R] [Nontrivial R]` might work as well, not sure. But yeah, I don't know this is worth it. I never needed *strict* ordered ring for cones and was surprised to see it here everywhere (also in our repo).

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/ConvexSpace/Defs.lean:83]: Ultimately this was a decision of @kim-em, but I believe it's not worth generalising unless an application needs it (we are already generalising in many directions here!)

**Comment by TBUGTB** [comment]
Some of my work in the brownian motion project relies on convexity arguments so I'd love to see this get merged soon. Is the only remaining point the discussion about `iConvexCombo` vs. `iConvexCombination`? I think a short name would be good. 
Happy to help if there's any way I could contribute to this getting merged!

**Comment by YaelDillies** [comment]
Would people here find `Comb` instead of `Combo` less slang?

**Comment by martinwintermath** [comment]
I am in favor of a short name. I do not have a preference for either `Comb` or `Combo` (I don't like `Combi`). So by my first sentence I should be in favor of `Comb`.

**Comment by ocfnash** [comment]
@YaelDillies Please make the `Combo` -> `Comb` rename and then feel free to merge.

bors d=@yaeldillies

**Comment by ocfnash** [comment]
Also: thank you both for working on this!

**Comment by YaelDillies** [comment]
bors merge
